**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:              LEDs
* Matchcode:          WL-SMDC SMT Mono-color Ceramic LED Waterclear
* Library Type:       LTspice
* Version:            rev20a     
* Date and Time   :       2020-11-20
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt  3535_150353GS74500  1  2
D1 1 2 led
.MODEL led D
+ IS=58.235E-18
+ N=3.1569
+ RS=.89951
+ IKF=27.635E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3535_150353RS74500  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=1.6253
+ RS=.74692
+ IKF=.10325
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3535_150353YS74500  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=1.7107
+ RS=.86724
+ IKF=4.0509
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3535_150353BS74500  1  2
D1 1 2  led
.MODEL led D
+ IS=10.000E-21
+ N=2.3672
+ RS=.65747
+ IKF=.10317
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3535_150353DS74500  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=2.3937
+ RS=.70285
+ IKF=98.975E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3535_150353FS74500  1  2
D1 1 2 led
.MODEL led D
+ IS=10.000E-21
+ N=1.4046
+ RS=.45395
+ IKF=79.343E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
******
.subckt  3535_150353HS74500  1  2
D1 1 2 led
.MODEL led D
+ IS=1.4493E-18
+ N=1.7980
+ RS=1.3215
+ IKF=27.532E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ TT=5.0000E-9
.ends
******






























































